US09079866B2
5-[2-Fluoro-4-(2-pyrrolidin-1-ylpyridin-3-yl)phenyl]pyrazin-2-amine
Title compound was prepared using methods analogous to those described in Example 377 using (2-(pyrrolidin-1-yl)pyridine-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C19H18FN5, 335.15; m/z found, 336.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.61-8.56 (m, 1H), 8.22-8.17 (m, 1H), 8.12 (s, 1H), 7.97-7.88 (m, 1H), 7.45-7.38 (m, 1H), 7.29-7.23 (m, 1H), 7.21-7.14 (m, 1H), 6.75-6.67 (m, 1H), 4.67 (s, 2H), 3.28-3.10 (m, 4H), 1.87-1.73 (m, 4H).

reactant | (2-(pyrrolidin-1-yl)pyridine-3-yl)boronic acid | N1(CCCC1)C1=NC=CC=C1B(O)O | C9H13BN2O2
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-[2-Fluoro-4-(2-pyrrolidin-1-ylpyridin-3-yl)phenyl]pyrazin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)N1CCCC1)C=1N=CC(=NC1)N | C19H18FN5
